US09145433B2
Acetic anhydride (4.5 g, 4.1 mL, 44 mmol) was added dropwise to the homogenous solution of methyl 2-amino-5-bromo-3-methylbenzoate (4.72 g, 19 mmol) in chloroform (55 mL) over a period of 20 min at room temperature and allowed to stir for 1 h. Potassium acetate (5.7 g, 58 mmol) and isoamyl nitrate (6.6 g, 7.6 mL, 57 mmol) were added at once to the reaction mixture under nitrogen. The clear reaction mixture turned to dark upon heating at 90° C. The reaction mixture was cooled to room temperature after overnight reflux, concentrated, diluted with water and stirred. The beige solid formed was collected by filtration and dried to obtain methyl 5-bromo-1H-indazole-7-carboxylate (2.1 g, 42%). 1H NMR (DMSO-d6): δ 13.44 (s, 1H), 8.33 (s, 1H), 8.21 (s, 1H), 7.99 (s, 1H), 3.95 (s, 3H).LCMS: rt 6.86 min (A), purity 99%, MS (m/e) 255 (MH+).

reactant | Acetic anhydride | 44 mmol, 4.1 mL, 4.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | methyl 2-amino-5-bromo-3-methylbenzoate | 19 mmol, 4.72 g | NC1=C(C(=O)OC)C=C(C=C1C)Br | C9H10BrNO2
reactant | Potassium acetate | 58 mmol, 5.7 g | C(C)(=O)[O-].[K+]
reactant | isoamyl nitrate | 57 mmol, 7.6 mL, 6.6 g | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
solvent | chloroform | 55 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 5-bromo-1H-indazole-7-carboxylate | 2.1 g, 42% | BrC=1C=C2C=NNC2=C(C1)C(=O)OC | C9H7BrN2O2
